US05703050
b) Sodium (3-(4-(methoxycarbonylaminoiminomethyl)phenyl)ureido)acetate
5.15 g (15.98 mmol) of ethyl (3-(4-(methoxycarbonylaminoiminomethyl)phenyl)ureido)acetate are dissolved in 200 ml of ethanol and treated with 7.99 ml (15.98 mmol) of a 2N NaOH and the mixture is stirred at room temperature for 24 h. It is then concentrated in vacuo and the residue is freeze-dried.

reactant | ethyl (3-(4-(methoxycarbonylaminoiminomethyl)phenyl)ureido)acetate | 15.98 mmol, 5.15 g | COC(=O)NN=CC1=CC=C(C=C1)NC(NCC(=O)OCC)=O | C14H18N4O5
reactant | NaOH | 2N | [OH-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | Sodium (3-(4-(methoxycarbonylaminoiminomethyl)phenyl)ureido)acetate | COC(=O)NN=CC1=CC=C(C=C1)NC(NCC(=O)[O-])=O.[Na+] | InChI=1S/C12H14N4O5.Na/c1-21-12(20)16-14-6-8-2-4-9(5-3-8)15-11(19)13-7-10(17)18;/h2-6H,7H2,1H3,(H,16,20)(H,17,18)(H2,13,15,19);/q;+1/p-1
